US04433149
A mixture of 1,2-dinitrobenzene (2.48 mmol), diethyl methylphosphonite (3.72 mmol) and acetonitrile (3 ml) is stirred at RT overnight. The reaction is concentrated to dryness, and the residue is purified by preparative thin layer chromatography (TLC) to yield ethyl P-methyl-2-nitrophenyl-phosphinate.

reactant | 1,2-dinitrobenzene | 2.48 mmol | [N+](=O)([O-])C1=C(C=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | diethyl methylphosphonite | 3.72 mmol | CP(OCC)OCC | C5H13O2P
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | ethyl P-methyl-2-nitrophenyl-phosphinate | CP(OCC)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C9H12NO4P
